### PR TITLE
Proof of correctness for addc primitive

### PR DESCRIPTION
**Pull request by mkarup**
Draft of proof for addc primitive. 

- [x] Clean up/ simplify
  - [x] Proof structure for addc case and helper lemmas 
  - [x] Changes to other proof code resulting from change to invariants on the store/ frame
- [x] Generalize for re-use in preparation of other carry primitives

### CODE REVIEW

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v [hunk 1]
```diff
@@ -1331,23 +1372,25 @@ Lemma update_global_preserves_global_mem_ptr_in_linear_memory : forall j sr sr'
   INV_global_mem_ptr_in_linear_memory sr f ->
   INV_inst_globals_nodup f ->
   smem sr (f_inst f) = Some m ->
-  (-1 < Z.of_N num < Wasm_int.Int32.modulus)%Z ->
-  (j = global_mem_ptr -> num + 8 < (mem_length m))%N ->
-  supdate_glob sr (f_inst f) j (VAL_num (VAL_int32 (N_to_i32 num))) = Some sr' ->
+  (j = global_mem_ptr ->
+   forall n, num = VAL_int32 (N_to_i32 n) /\ (-1 < Z.of_N n < Wasm_int.Int32.modulus)%Z -> n + 8 <= mem_length m)%N ->
```
Comment (womeier) [inline theories/CodegenWasm/LambdaANF_to_Wasm_correct.v:1376]: remove Wasm_int everywhere

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v [hunk 2]
```diff
@@ -2504,6 +2610,16 @@ Proof.
...
+Lemma memory_store_preserves_globals (sr : store_record) (fr : frame) :
+  forall g gv sr' m,
+    sglob_val sr (f_inst fr) g = Some gv ->
+    sr' = upd_s_mem sr (set_nth m sr.(s_mems) 0 m) ->
+    sglob_val sr' (f_inst fr) g = Some gv.
+Proof.
+  intros; subst sr'.
+  unfold upd_s_mem, sglob_val, sglob, sglob_ind in H |- *; cbn.
+  now destruct (lookup_N (inst_globals (f_inst fr))) eqn:Hinstglob.
+Qed.
```
Comment (womeier) [inline theories/CodegenWasm/LambdaANF_to_Wasm_correct.v]: move to utils

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v [hunk 3]
```diff
@@ -4318,6 +4446,450 @@ Local Ltac reduce_under_label:=
...
+      /\ smem_store sr (f_inst fr) addr off v (typeof_num v) = Some sr'
+      /\ INV sr' fr
+      /\ (forall a, (a + 4 <= (addr + off))%N -> load_i32 m a = load_i32 m' a)
+      /\ (forall a, (a + 8 <= (addr + off))%N -> load_i64 m a = load_i64 m' a)
+      /\ s_funcs sr = s_funcs sr'
+      /\ (forall g gv, sglob_val sr (f_inst fr) g = gv -> sglob_val sr' (f_inst fr) g = gv).
+Proof.
+  intros fr m addr off v HINV Hm Hoff Haddr.
+  unfold page_size in *. simpl_modulus_in Haddr.
+  have I := HINV. destruct I as (_&_&_&_&_&_& (Hmeminst & (m0 & (Hmem0 & size & Hm0size))) &_).
```
Comment (womeier) [inline theories/CodegenWasm/LambdaANF_to_Wasm_correct.v]: [] for consistency

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v [hunk 4]
```diff
@@ -4318,6 +4446,450 @@ Local Ltac reduce_under_label:=
...
+      remember ((make_carry global_mem_ptr C1_ord glob_tmp1)) as carryInstrsC1;
+      remember ((make_carry global_mem_ptr C0_ord glob_tmp1)) as carryInstrsC0;
+      separate_instr;
+      (* Load and deserialise 1st argument *)
+      dostep_nary 0; [eapply r_local_get; eauto|];
+      dostep_nary 1; [eapply r_load_success; eauto|];
+      rewrite Hdes1;
+      (* Load and deserialise 1st argument *)
+      dostep_nary_eliml 0 1; [eapply r_local_get; eauto|];
+      dostep_nary_eliml 1 1; [eapply r_load_success; eauto|];
```
Comment (womeier) [inline theories/CodegenWasm/LambdaANF_to_Wasm_correct.v]: @womeier use this tactic everywhere

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v [hunk 5]
```diff
@@ -4431,102 +5001,128 @@ Proof.
...
-        apply update_local_preserves_INV with (f:=f) (x':=N.to_nat x0') (v:=N_to_i32 gmp_v).
-        assumption. apply HlocsInBounds with (var:=x0). assumption. assumption.
-      }
 
       assert (HenoughM': (gmp_v + page_size < mem_length m')%N). {
         assert (mem_length m = mem_length m') by
           now apply mem_store_preserves_length in Hm'.
         replace (mem_length m') with (mem_length m). lia. }
 
+      assert True by auto.
```
Comment (womeier) [inline theories/CodegenWasm/LambdaANF_to_Wasm_correct.v]: relict

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v [hunk 6]
```diff
@@ -4318,6 +4408,431 @@ Local Ltac reduce_under_label:=
...
+    INV sr fr ->
+    smem sr (f_inst fr) = Some m ->
+    sglob_val sr (f_inst fr) global_mem_ptr = Some (VAL_num (VAL_int32 (N_to_i32 gmp))) ->
+    (Z.of_N gmp + Z.of_N page_size <= Z.of_N (mem_length m) < Int32.modulus)%Z ->
+    sglob_val sr (f_inst fr) glob_tmp1 = Some (VAL_num (VAL_int64 (Int64.repr res))) ->
+    exists (sr': store_record) m',
+      (forall instrs,
+          reduce_trans
+            (state, sr, fr, map AI_basic (make_carry global_mem_ptr ord glob_tmp1) ++ instrs)
+            (state, sr', fr, ($VN (VAL_int32 (N_to_i32 (gmp + 8)%N))) :: instrs))
```
Comment (womeier) [inline theories/CodegenWasm/LambdaANF_to_Wasm_correct.v]: why is the instrs necessary?

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v [hunk 7]
```diff
@@ -4318,6 +4408,431 @@ Local Ltac reduce_under_label:=
...
+  - (* Length of memory is preserved *)
+    now rewrite Hmemlength1 Hmemlength2 Hmemlength3.
+Qed.
+
+Definition local_holds_address_to_i64 (sr : store_record) (fr : frame) (l : localidx) (addr: i32) (val : i64) (m : meminst) bs : Prop :=
+    lookup_N fr.(f_locs) l = Some (VAL_num (VAL_int32 addr))
+    /\ load m (Wasm_int.N_of_uint i32m addr) 0%N (N.to_nat (tnum_length T_i64)) = Some bs
+    /\ wasm_deserialise bs T_i64 = (VAL_int64 val).
+
+Lemma apply_exact_add_operation_reduce (x y : localidx) :
```
Comment (womeier) [inline theories/CodegenWasm/LambdaANF_to_Wasm_correct.v]: what does the exact mean?

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v [hunk 8]
```diff
@@ -4318,6 +4408,431 @@ Local Ltac reduce_under_label:=
...
+      now apply rt_refl. }
+    repeat (split; auto); try now intros.
+    intros; eapply val_relation_depends_on_mem_smaller_than_gmp_and_funcs with (sr:=sr) (m:=m) (gmp:=gmp) (gmp':=(gmp + 16)%N); eauto; try lia; now erewrite ->Hsfs1; eauto. }
+Qed.
+
+Ltac dep_destruct_primint v p x :=
+  try dependent destruction v; try discriminate; dependent destruction p; dependent destruction x; try discriminate.
+
+(* Application of primitive operators can never evaluate to a function value *)
+Lemma primop_value_not_funval :
```
Comment (womeier) [inline theories/CodegenWasm/LambdaANF_to_Wasm_correct.v:4751]: move to primitives file?

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v (hunk 7 above)
Comment (mkarup) [reply theories/CodegenWasm/LambdaANF_to_Wasm_correct.v]: I was trying to follow how they describe addc, addcarryc, subc and subcarryc, which they call "exact" arithmetic operations - I don't quite get the name either. 

The reason for the lemma name is because I also named the helper function (in the primitives file) that generates the list of instructions for addc/ addcarryc 'apply_exact_add_operation'. 

Would it be better to just call addc/ addcarryc (and subc/ subcarryc) instead, to avoid the confusion?
